US08871315B2
2. Synthesis of 2-(4-{1,1-bis-[4-(2-hydroxy-ethoxy)-phenyl]-ethyl}-phenoxy)-ethanol Intermediate
A 500 ml round bottom flask is equipped with a mechanical stirrer, thermometer and condenser. Add 50 grams 1,1,1-tris(4-hydroxyphenyl)ethane, 100 grams DMF, 0.5 g. potassium iodide and 47.4 grams of ethylene carbonate. Heat to 145° C. and hold for 6 hours. Add 200 g. ethyl acetate and wash the organic portion four times with 150 g. saturated brine. Strip the solvent from the mix on a rotary evaporator. The yield of tan solid is 78 grams. Recrystallize this crude product by dissolving in 300 g. boiling ethyl acetate and allowing to cool slowly. Collect 70.3 grams of a tan solid; the mp=78-81° C.

reactant | 1,1,1-tris(4-hydroxyphenyl)ethane | 50 grams | OC1=CC=C(C=C1)C(C)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C20H18O3
reactant | potassium iodide | [I-].[K+]
reactant | ethylene carbonate | 47.4 grams | C1(OCCO1)=O | C3H4O3
solvent | DMF | 100 grams | CN(C)C=O | C3H7NO
product | 2-(4-{1,1-bis-[4-(2-hydroxy-ethoxy)-phenyl]-ethyl}-phenoxy)-ethanol | OCCOC1=CC=C(C=C1)C(C)(C1=CC=C(C=C1)OCCO)C1=CC=C(OCCO)C=C1 | C26H30O6
